US04587360
3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]-N-(1-methylethyl)-N-(3,4,5-trimethoxyphenyl)-1-propanesulfonamide
3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]-N-(3,4,5-trimethoxyphenyl)-1-propanesulfonamide (6.7 g, 0.0139 mol) in dry dimethylformamide (100 mL) was treated with sodium hydride, 60% in mineral oil, (0.555 g, 0.0139 mol) and the reaction stirred 1 hour at which point 2-bromopropane (1.71 g, 0.0139 mol) was added and the solution warmed overnight. The reaction was then stripped, dissolved in methylene chloride, filtered and evaporated to a gum. Preparative high pressure chromatography provided the title compound (3.40 g).

reactant | 3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]-N-(3,4,5-trimethoxyphenyl)-1-propanesulfonamide | 0.0139 mol, 6.7 g | COC=1C=C(C=CC1OC)CCN(CCCS(=O)(=O)NC1=CC(=C(C(=C1)OC)OC)OC)C | C23H34N2O7S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromopropane | 0.0139 mol, 1.71 g | BrC(C)C | C3H7Br
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]-N-(1-methylethyl)-N-(3,4,5-trimethoxyphenyl)-1-propanesulfonamide | 3.40 g | COC=1C=C(C=CC1OC)CCN(CCCS(=O)(=O)N(C1=CC(=C(C(=C1)OC)OC)OC)C(C)C)C | C26H40N2O7S
